* PEX produced on Sun Aug  2 23:49:49 CEST 2026 using scripts/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from inverter_pex.ext - technology: ihp-sg13cmos5l

.subckt inverter_pex VDD vin vout VSS
X0 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X1 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X2 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X3 vout vin VSS.t15 VSS.t16 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X4 vout vin VSS.t1 VSS.t0 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X5 VSS.t33 VSS.t31 VSS.t1 VSS.t32 sg13_lv_nmos ad=0.34p pd=2.68u as=0 ps=0 w=1u l=1u
X6 VSS.t24 vin vout VSS.t23 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X7 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X8 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X9 vout vin VSS.t21 VSS.t22 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X10 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X11 VSS.t9 vin vout VSS.t8 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X12 VSS.t30 vin vout VSS.t29 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X13 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X14 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X15 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X16 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X17 vout vin VSS.t27 VSS.t28 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X18 VSS.t15 vin vout VSS.t14 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X19 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X20 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X21 VDD VDD VDD VDD sg13_lv_pmos ad=2.04p pd=12.68u as=0.14199n ps=0.28418m w=6u l=1u
X22 vout vin VSS.t6 VSS.t7 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X23 VSS.t21 vin vout VSS.t20 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X24 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X25 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X26 VSS.t6 vin vout VSS.t5 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X27 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X28 VSS.t3 vin vout VSS.t2 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X29 vout vin VSS.t12 VSS.t13 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X30 VSS.t27 vin vout VSS.t26 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X31 vout vin VSS.t3 VSS.t4 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X32 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X33 vout vin VSS.t24 VSS.t25 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X34 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X35 VSS.t12 vin vout VSS.t11 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X36 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X37 VDD VDD VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=0 ps=0 w=6u l=1u
X38 VDD vin vout VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X39 vout vin VSS.t9 VSS.t10 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X40 vout vin VSS.t18 VSS.t19 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X41 vout vin VDD VDD sg13_lv_pmos ad=1.14p pd=6.38u as=1.14p ps=6.38u w=6u l=1u
X42 VSS.t18 vin vout VSS.t17 sg13_lv_nmos ad=0.19p pd=1.38u as=0.19p ps=1.38u w=1u l=1u
X43 VSS.t30 VSS.t34 VSS.t36 VSS.t35 sg13_lv_nmos ad=0.19p pd=1.38u as=0 ps=0 w=1u l=1u
R0 VSS.n19 VSS.t28 174.508
R1 VSS.n23 VSS.t26 163.417
R2 VSS.n24 VSS.t25 152.327
R3 VSS.n10 VSS.t23 141.236
R4 VSS.n12 VSS.t14 119.055
R5 VSS.n13 VSS.t20 119.055
R6 VSS.n5 VSS.t13 107.965
R7 VSS.n11 VSS.t19 107.965
R8 VSS.n17 VSS.t11 96.8741
R9 VSS.n16 VSS.t17 96.8741
R10 VSS.n14 VSS.t10 85.7835
R11 VSS.n8 VSS.t8 74.6922
R12 VSS.n25 VSS.t7 63.6024
R13 VSS.n22 VSS.t5 52.5125
R14 VSS.n15 VSS.t4 41.4212
R15 VSS.t16 VSS.n7 85.7847
R16 VSS.t2 VSS.n20 30.3317
R17 VSS.n22 VSS.t4 163.417
R18 VSS.n18 VSS.t28 30.3309
R19 VSS.n19 VSS.t26 41.4215
R20 VSS.n23 VSS.t25 52.5121
R21 VSS.n4 VSS.n21 0.00162059
R22 VSS.n4 VSS.n11 0.00162059
R23 VSS.n11 VSS.t17 107.965
R24 VSS.n4 VSS.n16 0.00162059
R25 VSS.n16 VSS.t16 119.055
R26 VSS.n4 VSS.n12 0.00162059
R27 VSS.n12 VSS.t13 96.8744
R28 VSS.n5 VSS.t11 107.965
R29 VSS.n4 VSS.n17 0.00161544
R30 VSS.n4 VSS.n14 0.00161544
R31 VSS.n8 VSS.t7 141.238
R32 VSS.n4 VSS.n25 0.00162059
R33 VSS.n25 VSS.t5 152.327
R34 VSS.n4 VSS.n22 0.00187013
R35 VSS.n15 VSS.t2 174.508
R36 VSS.n4 VSS.n20 0.00161544
R37 VSS.n4 VSS.n9 0.00103508
R38 VSS.n26 VSS.t34 0.013442
R39 VSS.n26 VSS.n4 5.66307
R40 VSS.n3 VSS.n26 0.0164358
R41 VSS.n3 VSS.t30 5.66455
R42 VSS.n3 VSS.n1 0.00359016
R43 VSS.n1 VSS.n2 0.00876575
R44 VSS.n2 VSS.t36 5.66109
R45 VSS.n4 VSS.n0 0.471182
R46 VSS.t33 VSS.t31 5.66266
R47 VSS.t31 VSS.t1 5.66533
R48 VSS.n0 VSS.t31 0.0719004
R49 VSS.t29 VSS.n18 185.599
R50 VSS.t35 VSS.n6 7.84076
R51 VSS.n9 VSS.t32 7.82769
R52 VSS.t0 VSS.n20 185.599
R53 VSS.t8 VSS.n14 130.147
R54 VSS.t10 VSS.n17 119.056
R55 VSS.t14 VSS.n7 85.7837
R56 VSS.t19 VSS.n13 96.8751
R57 VSS.t20 VSS.n21 85.7835
R58 VSS.t22 VSS.n10 74.6937
R59 VSS.t23 VSS.n24 63.6034
R60 VSS.n6 VSS.t29 19.2417
R61 VSS.n9 VSS.t0 19.2407
R62 VSS.n32 VSS.t34 3.0005
R63 VSS.n51 VSS.t3 2.48177
R64 VSS.n52 VSS.t6 2.48177
R65 VSS.n53 VSS.t9 2.48177
R66 VSS.n31 VSS.t12 2.48177
R67 VSS.t18 VSS.n30 2.48177
R68 VSS.t21 VSS.n35 2.48177
R69 VSS.n34 VSS.t24 2.48177
R70 VSS.n33 VSS.t27 2.48177
R71 VSS.n49 VSS.n4 2.09947
R72 VSS.n47 VSS.n4 2.09947
R73 VSS.n45 VSS.n4 2.09947
R74 VSS.n43 VSS.n4 2.09947
R75 VSS.n28 VSS.n4 2.09947
R76 VSS.n41 VSS.n4 2.09947
R77 VSS.n39 VSS.n4 2.09947
R78 VSS.n37 VSS.n4 2.09947
R79 VSS.n51 VSS.t31 1.2125
R80 VSS.n32 VSS.n1 1.52811
R81 VSS.n4 VSS.n10 0.00187013
R82 VSS.n21 VSS.t22 130.147
R83 VSS.n4 VSS.n8 0.00187013
R84 VSS.n4 VSS.n15 0.00162059
R85 VSS.n4 VSS.n5 0.00162059
R86 VSS.n4 VSS.n7 0.00150776
R87 VSS.n4 VSS.n13 0.00161544
R88 VSS.n4 VSS.n24 0.00161544
R89 VSS.n4 VSS.n23 0.00162059
R90 VSS.n4 VSS.n19 0.00162059
R91 VSS.n4 VSS.n18 0.00162059
R92 VSS.n27 VSS.n4 0.965651
R93 VSS.n4 VSS.n6 0.00103543
R94 VSS.n33 VSS.n32 0.209825
R95 VSS.n36 VSS.t3 0.200997
R96 VSS.n38 VSS.t6 0.200997
R97 VSS.n40 VSS.t9 0.200997
R98 VSS.n42 VSS.t12 0.200997
R99 VSS.n44 VSS.t18 0.200997
R100 VSS.n46 VSS.t21 0.200997
R101 VSS.n48 VSS.t24 0.200997
R102 VSS.n50 VSS.t27 0.200997
R103 VSS.n52 VSS.n51 0.16242
R104 VSS.n53 VSS.n52 0.16242
R105 VSS.n31 VSS.n53 0.16242
R106 VSS.n29 VSS.n31 0.16242
R107 VSS.n29 VSS.n30 0.16242
R108 VSS.n35 VSS.n30 0.16242
R109 VSS.n35 VSS.n34 0.16242
R110 VSS.n34 VSS.n33 0.16242
R111 VSS.n27 VSS.n50 0.142565
R112 VSS.n37 VSS.n36 0.0952183
R113 VSS.n39 VSS.n38 0.0927738
R114 VSS.n50 VSS.n49 0.0925656
R115 VSS.n41 VSS.n40 0.0903294
R116 VSS.n43 VSS.t15 0.0903294
R117 VSS.n48 VSS.n47 0.0901212
R118 VSS.n28 VSS.n42 0.0878849
R119 VSS.n45 VSS.n44 0.0878849
R120 VSS.t15 VSS.n28 0.0876767
R121 VSS.n46 VSS.n45 0.0876767
R122 VSS.n47 VSS.n46 0.0854405
R123 VSS.n42 VSS.n41 0.0852323
R124 VSS.n44 VSS.n43 0.0852323
R125 VSS.t34 VSS.n27 0.0844554
R126 VSS.n49 VSS.n48 0.082996
R127 VSS.n40 VSS.n39 0.0827878
R128 VSS.n38 VSS.n37 0.0803434
R129 VSS VSS.n29 0.0682949
R130 VSS.t15 VSS.n29 0.0394177
R131 VSS.n0 VSS.n36 0.201219
R132 VSS.n2 VSS.n4 1.34126
C0 vout vin 18.6541f
C1 vout VDD 19.3894f
C2 vin VDD 29.702f
C3 vout VSS 13.72425f
.ends

